US06599917B1
a) 2-Bromo-3-methoxymethyloxypyridine
50 g of 2-bromo-3-hydroxypyridine was suspended in 200 ml of tetrahydrofuran, followed by adding 33 ml of chloromethyl methyl ether. While cooling to −20° C. and stirring, 17 g of 60% oily sodium hydride was added thereto little by little. After adding sodium hydride, the cooling medium was removed, followed by stirring at room temperature for 3.5 hours. Under cooling, ice water was added thereto little by little and the mixture was extracted with ethyl acetate. The organic phase was further washed with brine, dried over anhydrous sodium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 10-15% ethyl acetate/hexane as an eluent for separation and purification, to give 35 g of the target compound.

reactant | 2-bromo-3-hydroxypyridine | 50 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | chloromethyl methyl ether | 33 ml | COCCl | C2H5ClO
reactant | sodium hydride | 17 g | [H-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Bromo-3-methoxymethyloxypyridine | 35 g | BrC1=NC=CC=C1OCOC | C7H8BrNO2
